US09034866B2
Synthesis of 9-(3-Hydroxy-1-methyl-pyrrolidin-3-ylethynyl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide
This compound was prepared according to a procedure similar to that described in Procedure E. In a solution of 9-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide (200 mg, 0.64 mmol) in acetonitrile (3 mL) and triethylamine (3 mL) were added, Pd(PPh3)2Cl2 (44 mg, 0.06 mmol), 3-Ethynyl-1-methyl-pyrrolidin-3-ol (160 mg, 1.3 mmol) and CuI (12 mg, 0.06 mmol). Then the solution was bubbled N2 for 5 min and heated by microwave for 1 h at 100° C. under nitrogen. The reaction mixture was filtered and the filtrate was purified by column to afford crude product. The crude product was purified by Prep HPLC to afford the titled compound (22.3 mg, 10%). 1H NMR (DMSO-d6, 400 MHz): δ 8.52 (d, J=2.0 Hz, 1H), 8.18 (s, 1H), 7.79 (s, 1H), 7.56 (s, 1H), 7.32 (d, J=8.8 Hz, 1H), 7.15 (s, 1H), 7.03 (d, J=8.4 Hz, 1H), 4.48 (s, 4H), 2.95 (m, 1H), 2.77 (m, 2H), 2.67 (m, 1H), 2.31 (s, 3H), 2.28 (m, 1H), 2.08 (m, 1H). LCMS=353.1 [M+H]+.

reactant | 9-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide | 0.64 mmol, 200 mg | BrC=1C=CC2=C(C3=NC(=CN3CCO2)C(=O)N)C1 | C12H10BrN3O2
reactant | 3-Ethynyl-1-methyl-pyrrolidin-3-ol | 1.3 mmol, 160 mg | C(#C)C1(CN(CC1)C)O | C7H11NO
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
catalyst | Pd(PPh3)2Cl2 | 0.06 mmol, 44 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.06 mmol, 12 mg | [Cu]I
product | 9-(3-Hydroxy-1-methyl-pyrrolidin-3-ylethynyl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide | 22.3 mg, 10% | OC1(CN(CC1)C)C#CC=1C=CC2=C(C3=NC(=CN3CCO2)C(=O)N)C1 | C19H20N4O3
